US04176184
(b) 7,7-Dimethyl-2-phenethyl-5-[2-(2-(3,4-dimethoxy-phenyl)ethylamino)-ethyl]-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride
2.8 gm of 7,7-dimethyl-2-phenethyl-5-(2-chloro-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione were heated at 150° C. for 40 minutes with 5 ml of 2-(3,4-dimethoxy-phenyl)-ethylamine. After cooling, the mixture was dissolved in ether, and the solution was several times extracted with water weakly acidified with acetic acid. The organic phase was evaporated, and the residue was dissolved in acetone. The dihycrochloride was precipitated from the acetone solution with ethereal hydrochloric acid.

reactant | 7,7-dimethyl-2-phenethyl-5-(2-chloro-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 2.8 gm | CC1(N=CC2=C3C(C(C(C2C1=O)CCCl)=O)=NC(=N3)CCC3=CC=CC=C3)C | C22H22ClN3O2
reactant | 2-(3,4-dimethoxy-phenyl)-ethylamine | 5 ml | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | ether | CCOCC | C4H10O
product | 7,7-Dimethyl-2-phenethyl-5-[2-(2-(3,4-dimethoxy-phenyl)ethylamino)-ethyl]-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride | Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCNCCC1=CC(=C(C=C1)OC)OC)=O)=NC(=N3)CCC3=CC=CC=C3)C | InChI=1S/C32H36N4O4.2ClH/c1-32(2)31(38)27-22(15-17-33-16-14-21-10-12-24(39-3)25(18-21)40-4)30(37)29-28(23(27)19-34-32)35-26(36-29)13-11-20-8-6-5-7-9-20;;/h5-10,12,18-19,22,27,33H,11,13-17H2,1-4H3;2*1H
